US08461328B2
A solution of 1-ethyl-3,3-difluoro-piperidin-4-one oxime (6.186 g, 34.72 mmol) in tetrahydrofuran (300 ml) was cooled to 0° C. over an ice bath and charged with 1M lithium tetrahydroaluminate in tetrahydrofuran (69.4 ml, 69.4 mmol) and left to stand overnight gradually warming to room temperature. The reaction was quenched with the addition of 1 N aqueous solution of sodium potassium tartrate (70 ml) and left to stir for an additional night. The white slurry was extracted twice with ethyl acetate (50 ml) and twice with dichloromethane (50 ml) and dried over sodium sulfate and concentrated under vacuum to yield 4.71 g 1-ethyl-3,3-difluoro-piperidin-4-ylamine (83%) LCMS (Method F): RT=0.14 min, m+H=179.0 1H NMR (400 MHz, D2O) δ 4.07-3.82 (m, 2H), 3.53 (s, 2H), 3.38 (q, J=7.3 Hz, 2H), 3.13 (s, 2H), 1.38 (t, J=7.3 Hz, 3H).

reactant | 1-ethyl-3,3-difluoro-piperidin-4-one oxime | 34.72 mmol, 6.186 g | C(C)N1CC(C(CC1)=NO)(F)F | C7H12F2N2O
reactant | lithium tetrahydroaluminate | 1M | [AlH4-].[Li+]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 69.4 mmol, 69.4 ml | O1CCCC1 | C4H8O
product | 1-ethyl-3,3-difluoro-piperidin-4-ylamine | 4.71 g, 83% | C(C)N1CC(C(CC1)N)(F)F | C7H14F2N2
